US07402684B2
3-(4-(4-Methoxy-benzyl)-phenyl]-thiophene:
To a mixture of 1-(4-iodobenzyl)-4-methoxybenzene (0.300 g, 0.925 mmol), 2N aqueous NaHCO3 solution (1.85 mL, 3.7 mmol), and 3-thiopheneboronic acid (0.237 g, 1.85 mmol) in a solution of toluene/EtOH (17.6/0.8 mL) at ambient temperature under an atmosphere of nitrogen was added tetrakis(triphenylphosphine)palladium(0) (0.107 g, 0.093 mmol). The mixture was refluxed for 18 h, cooled to ambient temperature, and diluted with H2O (30 mL). After extracting with EtOAc (3×25 mL) and filtering the EtOAc through a silica gel bed, the organic layer was washed with brine (25 mL), dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by flash column chromatography (70% hexane in dichloromethane) to afford the title product as a white solid (0.125 g, 48%): 1H NMR (400 MHz, CDCl3): δ 7.50 (d, 2H, J=8.4 Hz), 7.40 (t, 1H, J=2.0 Hz), 7.36 (d, 2H, J=2.4 Hz), 7.20 (d, 2H, J=8.4 Hz), 7.12 (d, 2H, J=8.8 Hz), 6.84 (d, 2H, J=8.8 Hz), 3.94 (s, 2H), 3.78 (s, 3H).

reactant | 1-(4-iodobenzyl)-4-methoxybenzene | 0.925 mmol, 0.300 g | IC1=CC=C(CC2=CC=C(C=C2)OC)C=C1 | C14H13IO
reactant | NaHCO3 | 3.7 mmol, 2N, 1.85 mL | C(=O)(O)[O-].[Na+]
reactant | 3-thiopheneboronic acid | 1.85 mmol, 0.237 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | toluene EtOH | 0.8 mL | C1(=CC=CC=C1)C.CCO
solvent | H2O | 30 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.093 mmol, 0.107 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-(4-Methoxy-benzyl)-phenyl]-thiophene | 0.125 g, 48% | COC1=CC=C(CC2=CC=C(C=C2)C2=CSC=C2)C=C1 | C18H16OS
